US05747517
Preparation of 5-[[4-[(4-acetyl-3-hydroxy-2-propylphenyl)methoxy]phenyl]methylene]-3-methyl-2-thioxo-4-thiazolidinone
Under a nitrogen atmosphere in a three-neck round bottom flask 4-[(4-acetyl-3-hydroxy-2-propylphenyl)methoxy]benzaldehyde (90.0 mg, 0.29 mmol) was dissolved in acetic acid (1.5 ml) with stirring. To this solution was added sodium acetate (82.8 mg, 1.00 mmol) and N-methylrhodanine (42.5 mg, 0.29 mmol). The reaction mixture was then heated to 100° C. and maintained at this temperature for about two hours at which time the reaction mixture was raised to the reflux temperature and allowed to reflux for about 28 hours. The reaction progress was monitored by thin layer chromatography.

reactant | 4-[(4-acetyl-3-hydroxy-2-propylphenyl)methoxy]benzaldehyde | 0.29 mmol, 90.0 mg | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=O)C=C1)CCC)O | C19H20O4
reactant | sodium acetate | 1.00 mmol, 82.8 mg | C(C)(=O)[O-].[Na+]
reactant | N-methylrhodanine | 0.29 mmol, 42.5 mg | CN1C(SCC1=O)=S | C4H5NOS2
solvent | acetic acid | 1.5 ml | C(C)(=O)O | C2H4O2
product | 5-[[4-[(4-acetyl-3-hydroxy-2-propylphenyl)methoxy]phenyl]methylene]-3-methyl-2-thioxo-4-thiazolidinone | C(C)(=O)C1=C(C(=C(C=C1)COC1=CC=C(C=C1)C=C1C(N(C(S1)=S)C)=O)CCC)O | C23H23NO4S2
